US06235730B1
Using acetanilide (3.7 g) and 3-iodoanisole, a reaction was made in the same manner as is 1) of Production Example 2. The subsequent purification by silica gel column chromatography (developing solvent, ethyl acetate:hexane=1:3 to 1:2) produced 3-methoxy-N-phenylacetanilide (4.44 g; yield, 67%) as a pale brown oil.

reactant | acetanilide | 3.7 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | 3-iodoanisole | IC=1C=C(C=CC1)OC | C7H7IO
product | 3-methoxy-N-phenylacetanilide | 4.44 g, 67% | COC=1C=C(C=CC1)N(C1=CC=CC=C1)C(C)=O | C15H15NO2
